Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Achalasia
 
Major Surgical or Invasive Procedure:
___ Myotomy with gastric fundoplication.  

 
History of Present Illness:
Mrs. ___ is a ___ woman who has a two-year history of 
 difficulty swallowing.  This became worse this ___.  She is 
having trouble with both solids and liquids.  She has had a 
workup, which includes a barium swallow, which showed some 
narrowing.  An endoscopy showed somewhat elevated lower 
esophageal sphincter pressure.  Manometric evaluation showed a 
resting pressure of 27 mmHg with failure to relax and 
aperistalsis, which is consistent with achalasia.  Dr. ___ 
___ an endoscopy and did Botox treatment, which has 
relieved her symptoms.  A question of a small nodule was also 
noted, which was biopsied and then clipped.  Endoscopic 
ultrasound of this area was not able to be done due to the 
presence of clips. 
She presented to Dr. ___ office with the above findings 
and after discussion of possible treatment alternatives 
including continued Botox injections, balloon dilation, and 
___ myotomy she elected for surgical intervention 
to treat her achalasia after a trial waiting period after the 
first Botox treatment.  
 
Past Medical History:
ASTHMA  
VITAMIN D DEFIC, UNSPEC  
ANEMIA  
HEMOGLOBINOPATHY SC trait 
OBESITY  
RHINITIS - ALLERGIC, UNSPEC CAUSE  

 
Social History:
___
Family History:
Asthma                                               
Cancer - Breast Mother  at age ___ and she now has dementia. 
Alcoholism - Father- passed away at ___ from ETOH                
Hypertension- grandmother
No one else in her family has other cancers or GI disorders. 

 
Physical Exam:
On Discharge:
Vitals: T 99.5 HR 76  BP 126/80  RR 16  O2 96RA
GEN: NAD, Comfortable, AOx3
HEENT:  NCAT, anicteric sclera
CV:  RRR, nl S1 and S2
PULM:  CTA b/l
ABD:  Soft, non-tender, no distended.  Incisions clean and dry.
Ext:  No calf tenderness

 
Pertinent Results:
___ 07:15AM BLOOD WBC-9.7# RBC-5.06 Hgb-14.0 Hct-37.1 
MCV-74* MCH-27.7 MCHC-37.7* RDW-14.1 Plt ___
___ 07:15AM BLOOD Glucose-100 UreaN-9 Creat-0.8 Na-137 
K-4.2 Cl-99 HCO3-31 AnGap-11
___ 07:15AM BLOOD Calcium-9.2 Phos-5.0* Mg-2.1
 
Brief Hospital Course:
Mrs. ___ arrived on ___ for elective ___ 
myotomy for treatment of achalasia (reader referred to operative 
note for complete details).  After an uneventful stay in the 
PACU, the patient arrived on the floor NPO, with NGT, and foley 
in place.  She remained stable overnight, putting out good 
urine, and she had her NGT and foley removed, diet advanced, and 
transitioned to PO medications on POD#1.  She voided without 
assistance, was pain free requiring little narcotics, tolerated 
a diet well, and was ambulating and passing flatus.  She 
remained hemodynamically stable throughout her stay.  

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular, 
soft diet, ambulating, voiding without assistance, and pain was 
well controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
Flovent HFA, omeprazole 20mg daily
 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.
Disp:*30 Tablet(s)* Refills:*2*
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*45 Tablet(s)* Refills:*0*
3. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation: Take if requiring continued oxycodone 
for pain control.  .
Disp:*30 Capsule(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Achalasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your stay at ___.  

Please resume all regular home medications.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may remove the outer dressing (clear plastic and gauze) 
tomorrow ___.  Please leave the steri-strips (small bandages) 
in place.  
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*Your Steri-strips will fall off on their own.  Please remove 
any remaining strips ___ days after surgery.
 
Followup Instructions:
___